US03966957
N-(1-Cyclohexyl-3-pyrrolidinyl)-2-methoxy-5-sulfamoylbenzamide
To 3.7 g. (0.022 mole) of 3-amino-1-cyclohexylpyrrolidine in 100 ml. of pyridine was added dropwise with cooling 1.1 g. (0.008 mole) of phosphorous trichloride at 20°C. After stirring one hour, 3 g. (0.013 mole) of 2-methoxy-5-sulfamoylbenzoic acid was added and refluxed 6 hrs. The solution was concentrated and the residue partitioned between dilute hydrochloride acid and isopropyl ether. The acid was made basic with ammonium hydroxide and extracted with chloroform which was dried (sodium sulfate) and concentrated. The residue was crystallized from ethyl acetate and recrystallized from isopropyl alcohol. Yield 1 g. (33%); m.p. 184°-187°C.

reactant | 3-amino-1-cyclohexylpyrrolidine | 0.022 mole | NC1CN(CC1)C1CCCCC1 | C10H20N2
reactant | phosphorous trichloride | 0.008 mole | P(Cl)(Cl)Cl | Cl3P
reactant | 2-methoxy-5-sulfamoylbenzoic acid | 0.013 mole | COC1=C(C(=O)O)C=C(C=C1)S(N)(=O)=O | C8H9NO5S
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | N-(1-Cyclohexyl-3-pyrrolidinyl)-2-methoxy-5-sulfamoylbenzamide | C1(CCCCC1)N1CC(CC1)NC(C1=C(C=CC(=C1)S(N)(=O)=O)OC)=O | C18H27N3O4S
